US05763439
Preparation of 2-tert-butyl-4-(4-methyl-1,3-dioxan-2-yl)-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one (Compound No. 44)
Into 20 ml of an absolute ethanol solution of 2.7 g of 4-picolylamine, 20 ml of an absolute ethanol solution of 3.4 g of 2-tert-butyl-5-chloro-4-(4-methyl-1,3-dioxan-2-yl)pyridazin-3-(2H)-one was dropwise added at room temperature. The mixture was reacted overnight under heating and refluxing and then left to cool. Ethanol was distilled off under reduced pressure, and then 150 ml of ethyl acetate was added to the residue. The mixture was washed with water and dried over anhydrous sodium sulfate. Then, the solvent was distilled off. The residue was subjected to column chromatography. Using an eluent (ethyl acetate:methanol=30:1 to 12:1), 1.2 g of the desired product (Compound No. 44) having a melting point of from 150° to 153° C. and 0.18 g of amorphous 4-tert-butyl-5-(4-pyridylmethylamino)-4-(4-pyridylmethyliminomethylidenyl)pyridazin-3-(2H) -one (Compound No. 2) as a by-product, were obtained.

reactant | 4-picolylamine | 2.7 g | N1=CC=C(C=C1)CN | C6H8N2
reactant | 2-tert-butyl-5-chloro-4-(4-methyl-1,3-dioxan-2-yl)pyridazin-3-(2H)-one | 3.4 g | C(C)(C)(C)N1N=CC(=C(C1=O)C1OCCC(O1)C)Cl | C13H19ClN2O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-tert-butyl-4-(4-methyl-1,3-dioxan-2-yl)-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one | C(C)(C)(C)N1N=CC(=C(C1=O)C1OCCC(O1)C)NCC1=CC=NC=C1 | C19H26N4O3
